US05670505
To a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(carboxymethyl)piperazine hydrochloride (210 mg), N-methylbenzylamine (52 mg) and triethylamine (0.19 ml) in dichloromethane (5 ml) was added 2-chloro-1-methylpyridinium iodide (110 mg) under nitrogen atmosphere at room temperature. The mixture was stirred at the same temperature for 1 hour. After removal of the solvent, the residue was purified by column chromatography on a silica gel eluting with a mixture of dichloromethane and methanol (10:1). The eluate was concentrated and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(N-methyl-N-benzylcarbamoyl)methyl]piperazine hydrochloride (190 mg) as a powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(carboxymethyl)piperazine hydrochloride | 210 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F
reactant | N-methylbenzylamine | 52 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | triethylamine | 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 110 mg | [I-].ClC1=[N+](C=CC=C1)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(N-methyl-N-benzylcarbamoyl)methyl]piperazine hydrochloride | 190 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(N(CC2=CC=CC=C2)C)=O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H33F6N3O2.ClH/c1-21-9-10-24(13-22(21)2)14-28-19-40(20-29(42)39(3)18-23-7-5-4-6-8-23)11-12-41(28)30(43)25-15-26(31(33,34)35)17-27(16-25)32(36,37)38;/h4-10,13,15-17,28H,11-12,14,18-20H2,1-3H3;1H/t28-;/m1./s1
